US04855466
(A) [[(3-Chlorocyclobutyl)methoxy]methyl]benzene
A mixture of 3-chlorocyclobutanemethanol (17.3 g, 0.143 mole) and benzylbromide (29.96 g, 0.1576 mole) in dry dimethylformamide (123 ml) was stirred at room temperature under an argon atmosphere and a 60% suspension of sodium hydride (6.31 g) was added. The reaction was stirred at ambient temperature for 22.5 hours. The reaction mixture was poured into 600 ml of water and the aqueous mixture extracted with ethyl acetate (4×500 ml). The ethyl acetate extracts were combined and dried over anhydrous sodium sulfate and the ethyl acetate evaporated in vacuo yielding the crude product as a yellow oil. The material was purified on a 2-liter Merck silica gel column eluting with 3 liters of hexane, followed by 5% ethyl acetate/hexane. The fractions containing the desired product were combined and the volatiles evaporated in vacuo yielding 28.6 g of the title compound as a pale yellow oil.

reactant | 3-chlorocyclobutanemethanol | 0.143 mole, 17.3 g | ClC1CC(C1)CO | C5H9ClO
reactant | benzylbromide | 0.1576 mole, 29.96 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 6.31 g | [H-].[Na+]
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 123 ml | CN(C=O)C | C3H7NO
product | [[(3-Chlorocyclobutyl)methoxy]methyl]benzene | 28.6 g | ClC1CC(C1)COCC1=CC=CC=C1 | C12H15ClO
